**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible PLCC LED 
* Matchcode:          WL-SMTW SMT Mono-color TOP LED  Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3528_150141AS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8166
+ RS=4.4501
+ IKF=10.719
+ CJO=0.000000000043186
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3528_150141BS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4694E-12
+ N=4.9950
+ RS=8.3467
+ IKF=999
+ CJO=4.9689E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3528_150141RS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4366E-9
+ N=4.9950
+ RS=1.8496
+ IKF=999
+ CJO=6.7087E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3528_150141VS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8457
+ RS=1.1328
+ IKF=4.8875
+ CJO=0.000000000088401
+ M=0.1001
+ VJ=9.99
.ends
*****
.subckt  3528_150141YS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.2769E-9
+ N=4.9950
+ RS=.66519
+ IKF=999
+ CJO=4.0174E-9
+ M=.1001
+ VJ=9.9900
.ends
******

.subckt  2214_150224AS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=1.5163E-9
+ N=4.9950
+ RS=.84121
+ IKF=999
+ CJO=7.0732E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  2214_150224BS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0044E-12
+ N=4.9950
+ RS=5.2026
+ IKF=999
+ CJO=7.3519E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  2214_150224GS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=59.124E-12
+ N=4.9950
+ RS=15.122
+ IKF=999
+ CJO=4.1540E-9
+ M=10
+ VJ=9.9900
.ends
******
.subckt  2214_150224SS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0268E-9
+ N=4.9950
+ RS=2.3257
+ IKF=999
+ CJO=8.2791E-9
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  2214_150224YS73100  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0293E-9
+ N=4.9950
+ RS=.58731
+ IKF=999
+ CJO=6.6815E-9
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  2214_150224BS73100A  1  2
D1 1 2 led
.MODEL led D
+ IS=1.7873E-15
+ N=3.5463
+ RS=9.5465
+ IKF=6.9498E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
.ends
******
.subckt  5050_150505BS73300  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.2361
+ RS=11.723
+ IKF=7.2442
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  5050_150505GS73300  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.0318
+ RS=15.100
+ IKF=6.5203E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  5050_150505RS73300  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.5772
+ RS=7.0642
+ IKF=10.461
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  5050_150505YS73300  1  2
D1 1 2 led
.MODEL led D
+ IS=2.3865E-15
+ N=1.3371
+ RS=6.7475
+ IKF=229.35E-15
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283BS73103  1  2
D1 1 2 led
.MODEL led D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283GS73103  1  2
D1 1 2 led
.MODEL led D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283RS73103  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283YS73103 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283DS73103 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283FS73103 1  2
D1 1 2 led
.MODEL led D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2835_150283HS73103 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3020_150302BS73100 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3020_150302GS73100 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3020_150302RS73100 1  2
D1 1 2 led
.MODEL led D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3020_150302VS73100 1  2
D1 1 2 led
.MODEL led D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3020_150302YS73100 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  2214_150224AS73100A 1  2
D1 1  2 led
.MODEL led D
+ IS=318.22E-21
+ N=2.6916
+ RS=2.3548
+ IKF=815.41
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  2214_150224GS73100A 1  2
D1 1 2 led
.MODEL led D
+ IS=8.6298E-12
+ N=4.9950
+ RS=5.5601
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  2214_150224RS73100A 1  2
D1 1 2 led
.MODEL led D
+ IS=403.48E-12
+ N=5
+ RS=49.873
+ IKF=294.22E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  2214_150224VS73100A 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.8200
+ RS=1.5832
+ IKF=9.2606E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  2214_150224YS73100A 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.8200
+ RS=1.5832
+ IKF=9.2606E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3528_150141AS73113 1  2
D1 1  2 led
.MODEL led D
+ IS=318.22E-21
+ N=2.6916
+ RS=2.3548
+ IKF=815.41
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3528_150141BS73113 1  2
D1 1  2 led
.MODEL led D
+ IS=201.32E-15
+ N=4.0779
+ RS=2.0905
+ IKF=25.684
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3528_150141GS73113 1  2
D1 1  2 led
.MODEL led D
+ IS=201.32E-15
+ N=4.0779
+ RS=2.0905
+ IKF=25.684
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3528_150141RS73113 1  2
D1 1  2 led
.MODEL led D
+ IS=201.32E-15
+ N=4.0779
+ RS=2.0905
+ IKF=25.684
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3528_150141YS73113 1  2
D1 1  2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3528_150141GS73100 1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9923
+ IKF=31.085E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
***3258 PLCC4
.subckt  3528_150141BS73130 1 2
D1 1  2 led
.MODEL led D
+ IS=5.5931E-12
+ N=5
+ RS=1.5321
+ IKF=2.6568E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
**********
.subckt  3528_150141BS73140 1 2
D1 1 2 led
.MODEL led D
+ IS=11.350E-9
+ N=4.9444
+ RS=1.1858
+ IKF=760.92E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
***********
.subckt  3528_150141GS73130 1 2
D1 1  2 led
.MODEL led D
+ IS=6.3094E-12
+ N=4.9950
+ RS=10.922
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
**********
.subckt  3528_150141GS73140 1 2
D1 1 2 led
.MODEL led D
+ IS=9.0189E-12
+ N=4.9950
+ RS=10.496
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
***********
.subckt  3528_150141YS73130 1 2
D1 1  2 led
.MODEL led D
+ IS=164.97E-12
+ N=4.9950
+ RS=11.002
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
**********
.subckt  3528_150141YS73140 1 2
D1 1 2 led
.MODEL led D
+ IS=308.10E-12
+ N=4.9950
+ RS=9.3925
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
***********
.subckt  3528_150141RS73130 1 2
D1 1  2 led
.MODEL led D
+ IS=530.41E-12
+ N=4.9950
+ RS=8.3344
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
**********
.subckt  3528_150141RS73140 1 2
D1 1 2 led
.MODEL led D
+ IS=445.88E-12
+ N=4.9950
+ RS=9.3451
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends





